US07705027B2
N-[5-(5-Chloro-2,4-dihydroxy-phenyl)-4-(4-fluoro-phenyl)-isoxazol-3-ylmethyl]-acetamide
To a solution of C-[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-fluoro-phenyl)-isoxazol-3-yl]-methylamine (100 mg, 0.19 mmol) in DCM was added acetic anhydride (130 μl, 7.0 equiv.) and triethylamine (81 μl, 3.0 equiv.). The solution was stirred at room temperature until the amine was consumed. The solvent was removed in vacuo to leave the yellow tinged oily crude benzyl protected product. This was deprotected using the standard procedure with boron trichloride described above and purified by preparative TLC and soxhlet extraction of the silica by ether gave the pure compound as a colourless solid (10 mg, 14% yield).

reactant | C-[5-(2,4-Bis-benzyloxy-5-chloro-phenyl)-4-(4-fluoro-phenyl)-isoxazol-3-yl]-methylamine | 0.19 mmol, 100 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)Cl)C1=C(C(=NO1)CN)C1=CC=C(C=C1)F | C30H24ClFN2O3
reactant | acetic anhydride | 130 μl, 7.0 equiv. | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 81 μl, 3.0 equiv. | C(C)N(CC)CC | C6H15N
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
solvent | DCM | C(Cl)Cl | CH2Cl2
product | N-[5-(5-Chloro-2,4-dihydroxy-phenyl)-4-(4-fluoro-phenyl)-isoxazol-3-ylmethyl]-acetamide | 10 mg, 14% yield | ClC=1C(=CC(=C(C1)C1=C(C(=NO1)CNC(C)=O)C1=CC=C(C=C1)F)O)O | C18H14ClFN2O4
